### PR TITLE
feat: Support extensional equality in FinFun

### PR DESCRIPTION
**Pull request by fmontesi**
This PR changes `FinFun` to support extensional equality, making it essentially equivalent to `Finsupp` in Mathlib, with the important difference that definitions and theories about `FinFun` are computable. It also makes FinFun adopt the same notation as Finsupp, so to facilitate a future replacement with the latter in the future if it ever changes in Mathlib to have computable defs/theorems (this is relegated to the future since FinFun is used downstream in at least one big project I know of).

### CODE REVIEW

File: Cslib/Foundations/Data/FinFun.lean [hunk 1]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
-    f = g := by
-  cases f
-  cases g
+/-- A `FinFun` is a function `fn` with a finite `support`.
+
+This is similar to `Finsupp` in Mathlib, but definitions are computable. -/
+structure FinFun (α : Type _) (β : Type _) [Zero β] where
+  fn : α → β
+  support : Finset α
+  mem_support_fn {a : α} : a ∈ support ↔ fn a ≠ 0
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean:27]: It wouldn't hurt to document these fields.

File: Cslib/Foundations/Data/FinFun.lean [hunk 2]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+
+attribute [scoped grind _=_] FinFun.mem_support_fn
+
+namespace FinFun
+
+scoped notation:50 α " →₀ " β => FinFun α β
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]: Compare with the Finsupp notation:
```lean
@[inherit_doc]
infixr:25 " →₀ " => Finsupp
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 3]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+
+/-- Constructs a `FinFun` from any function and a given support, filtering out all elements not
+mapped to 0 in the support. -/
+@[scoped grind]
+private def mkRestrictFun {α β : Type _} [Zero β] [DecidableEq α]
+  [hdec : ∀ y : β, Decidable (y = 0)] (fn : α → β) (support : Finset α) : α →₀ β where
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]: No need to name this instance?

File: Cslib/Foundations/Data/FinFun.lean [hunk 4]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+    ext a
+    grind
+
+@[scoped grind =]
+theorem coe_fn [Zero β] {f : α →₀ β} : (f : α → β) = f.fn := by simp [DFunLike.coe]
+
+@[scoped grind =]
+theorem coe_eq_fn [Zero β] {f : α →₀ β} : f a = f.fn a := by
+  rcases f with ⟨f, support, mem_support_fn⟩
+  simp [DFunLike.coe]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]:
```suggestion
  simp [DFunLike.coe]
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 5]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+
+/-- Extensional equality for `FinFun`. -/
+@[scoped grind ←=]
+theorem ext [Zero β] {f g : α →₀ β} (h : ∀ (a : α), f a = g a) :
+  f = g := by
+  apply DFunLike.ext
+  exact h
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]: The typeclass synthesis works if you help with the implict function args:
```suggestion
theorem ext [Zero β] {f g : α →₀ β} (h : ∀ (a : α), f a = g a) : f = g :=
  DFunLike.ext (f := f) (g := g) h
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 6]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+    simp only [coe_eq_fn]
+    rw [← FinFun.mem_support_fn]
+    simp only [Membership.mem] at h
+    simp only [Membership.mem]
+    exact h
+  case mpr =>
+    have hmem := f.mem_support_fn (a := a)
+    simp only [Membership.mem] at hmem
+    simp only [Membership.mem]
+    grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]:
```suggestion
  grind
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 7]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+theorem eq_char [DecidableEq α] [Zero β] {f g : α →₀ β} :
+  f = g ↔ (f.fn = g.fn ∧ f.support = g.support) := by
+  apply Iff.intro <;> intro h
+  · grind
+  · obtain ⟨h1, h2⟩ := h
+    apply DFunLike.ext
+    intro x
+    rw [coe_fn]
+    rw [coe_fn]
+    rw [h1]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]:
```suggestion
theorem eq_char [DecidableEq α] [Zero β] {f g : α →₀ β} :
    f = g ↔ f.fn = g.fn ∧ f.support = g.support := by
  have (h : f.fn = g.fn) : f = g := ext (congrFun h)
  grind
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 8]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+
+@[scoped grind =>]
+theorem congrFinFun [DecidableEq α] [Zero β] {f g : α →₀ β} (h : f = g) (a : α) :
+    f a = g a := by grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean:87]: The signature fits on one line:
```suggestion
theorem congrFinFun [DecidableEq α] [Zero β] {f g : α →₀ β} (h : f = g) (a : α) : f a = g a :=
  by grind
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 9]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
-
-notation:50 α " ⇀ " β => FinFun α β
-notation:50 f "↾" dom => FinFun.mk f dom
-
-abbrev CompleteDom [Zero β] (f : α ⇀ β) := ∀ x, x ∉ f.dom → f.f x = 0
-
-def FinFun.defined (f : α ⇀ β) (x : α) : Prop := x ∈ f.dom
-
-@[simp]
-abbrev FinFun.apply (f : α ⇀ β) (x : α) : β := f.f x
```
Comment (XYUnknown) [inline Cslib/Foundations/Data/FinFun.lean:31]: It would be convenient if we keep this

File: Cslib/Foundations/Data/FinFun.lean [hunk 10]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+
+instance instFunLike [Zero β] : FunLike (α →₀ β) α β where
+  coe f := f.fn
+  coe_injective' := by
+    rintro ⟨f1, support1, mem_support_fn1⟩ ⟨f2, support2, mem_support_fn2⟩
+    simp only
+    intro heq
+    simp only [heq, mk.injEq, true_and]
+    ext a
+    grind
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]:
```suggestion
    rintro ⟨_, _⟩ ⟨_, _⟩
    simp_all [Finset.ext_iff]
```

File: Cslib/Foundations/Data/FinFun.lean [hunk 11]
```diff
@@ -6,108 +6,106 @@ Authors: Fabrizio Montesi, Xueying Qin
...
-  <;> rcases h with ⟨_, _, _, _⟩
-  <;> grind
-
-theorem FinFun.mapBin_char₂ [DecidableEq α] (f g : α ⇀ β)
-    (op : Option β → Option β → Option β) (hdom : f.dom = g.dom)
-    (hop : ∀ x ∈ f.dom, (op (some (f.f x)) (some (g.f x))).isSome)
-    : (FinFun.mapBin f g op).isSome := by grind [mapBin]
-
--- Fun to FinFun
-def Function.toFinFun [DecidableEq α] (f : α → β) (dom : Finset α) : α ⇀ β := FinFun.mk f dom
```
Comment (XYUnknown) [inline Cslib/Foundations/Data/FinFun.lean:84]: Similarly it would also be convenient if we keep this Function to FinFun conversion.

**Review by XYUnknown — COMMENTED** [review]
It should be compatible with my code base. 
Two small syntactic things: it would be convenient if we keep the abbreviation `FinFun.apply` and the definition`Function.toFinFun`.

File: Cslib/Foundations/Data/FinFun.lean (hunk 7 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/FinFun.lean]: The reverse direction works without the support hypothesis, this is intentional?

File: Cslib/Foundations/Data/FinFun.lean (hunk 9 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun.lean:31]: Why? You can now just write `f x` and it'll do the same thing, because of the new `FunLike` instance. Making that an `abbrev` reveals the internal details of `FinFun` a bit.

Comment (XYUnknown) [reply Cslib/Foundations/Data/FinFun.lean:31]: Ah I see, I was not aware of `FunLike` allows me to write `f x` directly; I thought without `FinFun.apply` I would need to write `f.fn x` which would reveal the internal details of `FinFun`.

File: Cslib/Foundations/Data/FinFun.lean (hunk 3 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun.lean]: Not sure what you mean?

File: Cslib/Foundations/Data/FinFun.lean (hunk 6 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun.lean]: Looks like I forgot to backtrack and transform some proofs into `grind` calls. Gonna call it `grind` debt. ;-)

File: Cslib/Foundations/Data/FinFun.lean (hunk 11 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun.lean:84]: This is now `FinFun.mkRestrictFun`, accessible through the uprighthook notation: `f ↾ support`.

I made `mkRestrictFun` private for now because I'm not in particular love with the name...... :-)

Comment (XYUnknown) [reply Cslib/Foundations/Data/FinFun.lean:84]: How does the notation work with `simp`?

File: Cslib/Foundations/Data/FinFun.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/FinFun.lean]: I meant removing `hdec` fom `[hdec : ∀ y : β, Decidable (y = 0)]`. Not sure the official style guidance,  but you usually only see named instances is they are needed explicitly in the signature/proof.

File: Cslib/Foundations/Data/FinFun.lean [hunk 12]
```diff
@@ -6,108 +6,90 @@ Authors: Fabrizio Montesi, Xueying Qin
...
+  support : Finset α
+  /-- Proof that `support` is the support of the underlying function. -/
+  mem_support_fn {a : α} : a ∈ support ↔ fn a ≠ 0
+
+attribute [scoped grind _=_] FinFun.mem_support_fn
+
+namespace FinFun
+
+@[inherit_doc]
+scoped infix:25 " →₀ " => FinFun
```
Comment (chenson2018) [inline Cslib/Foundations/Data/FinFun.lean]: Just making sure this is not a typo: you made this `infix` versus `Finsupp` using `infixr`?

File: Cslib/Foundations/Data/FinFun.lean (hunk 3 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun.lean]: That's correct. I was convinced to be using it, must've been an old proof. Will fix, thx.

File: Cslib/Foundations/Data/FinFun.lean (hunk 12 above)
Comment (fmontesi) [reply Cslib/Foundations/Data/FinFun.lean]: typo :-)

**Comment by fmontesi** [comment]
@XYUnknown I've added some results about restriction, which has pretty nice properties, and renamed it to `fromFun`.

@XYUnknown @chenson2018 I am though in doubt whether I should use the `↾` symbol for the 'restriction to a finite support' operator. In general, that operator might make sense for any Set. Maybe I should rename it to `↾₀` ?

**Comment by chenson2018** [comment]
I don't have a strong opinion on the notation. One comparison is that in Mathlib [Matroid.«term_↾_»](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Combinatorics/Matroid/Minor/Restrict.html#Matroid.%C2%ABterm_%E2%86%BE_%C2%BB) is used as a scoped notation for restricting a matroid to a set.

**Comment by XYUnknown** [comment]
> @XYUnknown I've added some results about restriction, which has pretty nice properties, and renamed it to `fromFun`.

It is indeed a more reasonable name compared to `mkRestrictFun`

> @XYUnknown @chenson2018 I am though in doubt whether I should use the `↾` symbol for the 'restriction to a finite support' operator. In general, that operator might make sense for any Set. Maybe I should rename it to `↾₀` ?

Since the symbol of the `FinFun` is `→₀`, it does make sense to me to use `↾₀`.

**Comment by fmontesi** [comment]
Thanks, both! I've adopted the `↾₀` notation. This will leave us with the possibility of using `↾` for the version that doesn't require a `Finset`.
